US07812028B2
Preparation of 5-(2-Pyridin-3-yl-ethyl)-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic Acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide
To a solution of 0.1 g 5-bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide in 2.0 ml of TEA is added at room temperature 0.015 g of bis(triphenylphosphine) palladium(II) chloride, 0.002 g cuprous iodide and 0.034 g meta-ethynylpyridine. The mixture is treated at 100° C., 1½ hours at the microwave. The starting material is consumed, as evidenced by HPLC. To the mixture is 1N HCl solution in water and ethyl acetate. The organic layer is washed with sodium bicarbonate and sodium chloride 10% solution in water. The residue is purified by chromatography in silica gel. The intermediate was hydrogenated under a hydrogen atmosphere in the presence of palladium on charcoal to yield after filtration and evaporation of the solvent the title compound as off-white oil, MS (ISP) 487.3 (M+H)+.

reactant | 5-bromo-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide | 0.1 g | C1(CC1)[C@@](CNC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)OC(F)(F)F)(C)O | C18H17BrF3N3O3
reactant | meta-ethynylpyridine | 0.034 g | C(#C)C=1C=NC=CC1 | C7H5N
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.015 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(2-Pyridin-3-yl-ethyl)-6-(4-trifluoromethoxy-phenyl)-pyrazine-2-carboxylic Acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)[C@@](CNC(=O)C1=NC(=C(N=C1)CCC=1C=NC=CC1)C1=CC=C(C=C1)OC(F)(F)F)(C)O | C25H25F3N4O3
